US07119203B2
Part. C. Preparation of 1-(methylsulfonyl)-4-[4-(4,4,4-trifluorobutoxy)phenyl]piperazine
To a solution of the 1-[4-(4,4,4-trifluorobutoxy)phenyl]piperazine product from Part B (5 g, 17 mmol) in methylene chloride (50 mL) was added triethyl amine (4 mL). The mixture was cooled to 0° C. Methane sulfonyl chloride (2.4 g, 21 mmol) in a solution of methylene chloride (10 mL) was then added dropwise. After 2 hr, the reaction was complete. The solvent was removed under reduced pressure to produce a solid residue. To this solid was added water (100 mL). The resulting mixture was filtered and washed with water, and then dried under high vacuum to produce 6 g (95% yield) of the desired compound in the form of a tan solid. Proton NMR and MS were consistent with the desired structure.

reactant | 1-[4-(4,4,4-trifluorobutoxy)phenyl]piperazine | FC(CCCOC1=CC=C(C=C1)N1CCNCC1)(F)F | C14H19F3N2O
reactant | triethyl amine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonyl chloride | 21 mmol, 2.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(methylsulfonyl)-4-[4-(4,4,4-trifluorobutoxy)phenyl]piperazine | 6 g, 95% yield | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCCC(F)(F)F | C15H21F3N2O3S
